US03974161
Pyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxamide
A mixture of 2-aminoquinoline-3-carboxamide (2.0 g., 1.15 millimoles), ethyl oxamate (2.71 g., 23.1 millimoles), ethylene glycol (10 ml.) and sodium methoxide (10 mg.) is heated at 170° C. for 1 hour. The product is precipitated by slow addition of ice cold methanol (50 ml.) to the hot reaction mixture followed by chilling in an ice bath. It is filtered off, washed with cold methanol and dried in vacuo. Yield = 0.768 g. (28%). M.P. 320° C.

reactant | 2-aminoquinoline-3-carboxamide | 1.15 millimoles, 2.0 g | NC1=NC2=CC=CC=C2C=C1C(=O)N | C10H9N3O
reactant | ethyl oxamate | 23.1 millimoles, 2.71 g | C(C(=O)N)(=O)OCC | C4H7NO3
reactant | sodium methoxide | 10 mg | C[O-].[Na+]
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | Pyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxamide | N1=C(NC(C=2C1=NC1=CC=CC=C1C2)=O)C(=O)N | C12H8N4O2
